US07220862B2
2-Oxo-2,3-dihydro-benzooxazole-6-carbaldehyde
A solution of 6-bromo-3H-benzooxazol-2-one (0.9236 g, 4.31 micromoles) in anhydrous tetrahydrofuran (25 mL) and dimethylformamide (3 mL) under nitrogen was cooled to −78° C. before addition of n-butyllithium (2.5M in hexane) (3.8 mL, 2.2 equiv). After stirring for 10 min at −78° C., 24 mL of sec-butyllithium (1.4 M in cyclohexane, 8 equiv) was added. The reaction was stirred while slowly warming to −40° C. When this temperature was reached, the reaction was quenched by addition of methanol. The reaction mixture was concentrated in vacuo and water was added. The aqueous layer was acidified with 1N HCl (ca. pH 5) and extracted with ethyl acetate (3×50 mL), dried over sodium sulfate, filtered and concentrated to give the product, 0.6402 g (91%). MS (ESI) 164 (MH)+. 1H NMR (400 MHz, DMSO-d6) δ 9.90 (1H, s), 7.79 (1H, d, J=8.0 Hz), 7.74 (1H, s), 7.28 (1H, d, J=8.0 Hz).

reactant | 6-bromo-3H-benzooxazol-2-one | 4.31 micromoles, 0.9236 g | BrC1=CC2=C(NC(O2)=O)C=C1 | C7H4BrNO2
reactant | n-butyllithium | 2.5M, 3.8 mL, 2.2 equiv | C(CCC)[Li]
reactant | sec-butyllithium | 1.4 M, 24 mL, 8 equiv | C(C)(CC)[Li]
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-Oxo-2,3-dihydro-benzooxazole-6-carbaldehyde | O=C1OC2=C(N1)C=CC(=C2)C=O | C8H5NO3
